US07855202B2
5-Bromo-3-nitro-6-(1,3-oxazol-2-yl)pyridin-2-amine
To a stirred solution of 3-nitro-6-(1,3-oxazol-2-yl)pyridin-2-amine (0.127 g, 0.62 mmol) in dimethylformamide (3 mL) at 0° C. was added N-bromosuccinimide (0.115 g, 0.65 mmol) and the mixture was warmed to room temperature. After 3 days, further N-bromosuccinimide (0.058 g, 0.33 mmol) was added and stirring was continued for 3 hours. The solution was poured into water and the precipitate was filtered, washed with water and dried to give the title compound (0.18 g, 70%) as a yellow solid.

reactant | 3-nitro-6-(1,3-oxazol-2-yl)pyridin-2-amine | 0.62 mmol, 0.127 g | [N+](=O)([O-])C=1C(=NC(=CC1)C=1OC=CN1)N | C8H6N4O3
reactant | N-bromosuccinimide | 0.65 mmol, 0.115 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 0.33 mmol, 0.058 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-3-nitro-6-(1,3-oxazol-2-yl)pyridin-2-amine | 0.18 g, 70% | BrC=1C=C(C(=NC1C=1OC=CN1)N)[N+](=O)[O-] | C8H5BrN4O3
